US04284631
7-[2-(2-Formamidothiazol-4-yl)-2-(2-allylthioethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.5 g.), conc. hydrochloric acid (1.19 g.), tetrahydrofuran (7.5 g.) and methanol (22.5 ml.) were treated in a similar manner to that of Example 1-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(2-allylthioethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.), powder.

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-(2-allylthioethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCSCC=C | C18H19N5O6S3
reactant | hydrochloric acid | 1.19 g | Cl | ClH
reactant | tetrahydrofuran | 7.5 g | O1CCCC1 | C4H8O
solvent | methanol | 22.5 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-allylthioethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCSCC=C | C17H19N5O5S3
